US07435837B2
Treatment of 2,4,6-trichlorobromobenzene (14.5 g, 55.69 mmol) with 2-methoxybenzeneboronic acid (12.69 g, 83.54 mol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.656 g, 0.835 mmol), and potassium carbonate (19.21 g, 139.22 mmol) generally according to the procedure described for Intermediate 37 provided 9.8 g (61%) of 2′ 4′,6′-trichloro-1,1′-biphenyl-2-yl methyl ether. To a solution of 2′4′,6′-trichloro-1,1′-biphenyl-2-yl methyl ether (9.8 g, 34.08 mmol) in dichloromethane (100 mL) cooled to −78° C. was added boron tribromide (9.38 g, 1.0 M in dichloromethane) generally according to the procedure described for Intermediate 163 provided provided 9.2 g of a yellow solid. Treatment of 2′,4′,6′-trichloro-1,1′-biphenyl-2-ol (9.17 g, 33.52 mmol) with potassium carbonate (18.53 g, 134.1 mmol) and allyl bromide (4.46 g, 36.87 mol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-2′,4′,6′-trichloro-1,1′-biphenyl-2-ol. Treatment of 3-allyl-2′,4′,6′-trichloro-1,1′-biphenyl-2-ol. (10.35 g, 33.00 mmol) with 3-chloroperoxybenzoic acid (17.08 g, 99.00 mmol, 77%) followed by potassium carbonate (11.40 g, 82.51 mmol) generally according to the procedure described for Intermediate 9 afforded 10.4 g (95%) of (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol. Treatment of (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (10.38 g, 31.49 mmol) with p-toluenesulfonyl chloride (7.20 g, 37.79 mol) generally according to the procedure described for Intermediate 10 gave 10.5 g (68%) of (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. mp 178-180° C.

reactant | 2′,4′,6′-trichloro-1,1′-biphenyl-2-ol | 33.52 mmol, 9.17 g | ClC1=C(C(=CC(=C1)Cl)Cl)C=1C(=CC=CC1)O | C12H7Cl3O
reactant | potassium carbonate | 134.1 mmol, 18.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 36.87 mol, 4.46 g | C(C=C)Br | C3H5Br
reactant | allyl ether | C(C=C)OCC=C | C6H10O
reactant | 3-allyl-2′,4′,6′-trichloro-1,1′-biphenyl-2-ol | C(C=C)C1=C(C(=CC=C1)C1=C(C=C(C=C1Cl)Cl)Cl)O | C15H11Cl3O
reactant | 3-chloroperoxybenzoic acid | 99.00 mmol, 17.08 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 82.51 mmol, 11.40 g | C([O-])([O-])=O.[K+].[K+]
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | (±)-[7-(2,4,6-trichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 10.4 g, 95% | ClC1=C(C(=CC(=C1)Cl)Cl)C1=CC=CC=2CC(OC21)CO | C15H11Cl3O2
